* Simple attenuator circuit

* Netlist, op, print v(a) v(b) i(v1)
V1 a 0 60V
R1 a b 20
R2 b 0 10

* control commands
.control
op
* print v(a) v(b) v(a,b) i(v1)
print all
.endc